US08247429B2
methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate
A suspension of methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate (1.65 g, 6.18 mmol), palladium acetate (139 mg, 0.62 mmol), triphenylphosphine (325 mg, 1.24 mmol), potassium carbonate (1.28 g, 9.27 mmol) and methyl acrylate (834 μL, 9.27 mmol) in N,N-dimethylformamide (60 mL) was stirred with heating at 100° C. for 50 min. The reaction solution was diluted with water, extracted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→70/30) to give the title compound (1.33 g, yield 78%).

reactant | methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate | 6.18 mmol, 1.65 g | BrC1=C(C2=CN(N=C2C=C1)C)C(=O)OC | C10H9BrN2O2
reactant | triphenylphosphine | 1.24 mmol, 325 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 9.27 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 9.27 mmol, 834 μL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | palladium acetate | 0.62 mmol, 139 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate | 1.33 g, yield 78% | COC(/C=C/C1=C(C2=CN(N=C2C=C1)C)C(=O)OC)=O | C14H14N2O4
